US04978670
1-[[[[1-(2-pyridinyl)ethylidene]hydrazino]carbonyl]methyl]pyridinium chloride. Compound 3
Following the general method of Example 2 and making non-critical variations, 5.63 gm (0.03 mole) of Girard's Reagent P and 3.63 gm (0.03 mole) of 2-acetylpyridine yield 5.70 gm (65%) of the title compound; mp 183.7° (decomp).

reactant | Girard's Reagent P | 0.03 mole, 5.63 gm | C1=CC=[N+](C=C1)CC(=O)NN.[Cl-]
reactant | 2-acetylpyridine | 0.03 mole, 3.63 gm | C(C)(=O)C1=NC=CC=C1 | C7H7NO
product | 1-[[[[1-(2-pyridinyl)ethylidene]hydrazino]carbonyl]methyl]pyridinium chloride | [Cl-].N1=C(C=CC=C1)C(C)=NNC(=O)C[N+]1=CC=CC=C1 | InChI=1S/C14H14N4O.ClH/c1-12(13-7-3-4-8-15-13)16-17-14(19)11-18-9-5-2-6-10-18;/h2-10H,11H2,1H3;1H
